US04740513
4-Iodo-1-(3-methyl-4-nitrophenyl)-2-methylimidazole
A mixture of 5-fluoro-2-nitrotoluene (7.9 g), 4-iodo-2-methylimidazole (9.0 g) and sodium carbonate (4.5 g) was heated with stirring in dimethylformamide (50 cm3) at 120° for 16 hours under nitrogen. The mixture was poured into water (50 cm3) and extracted with chloroform (3×100 cm3). The combined and dried (MgSO4) organic extracts were concentrated in vacuo to give a solid which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with ethyl acetate:toluene, 1:5 by volume. Combination and evaporation of appropriate fractions afforded a solid which was recrystallised from dichloromethane-hexane to give the title compound, m.p. 146°-8°, (4.0 g).

reactant | 5-fluoro-2-nitrotoluene | 7.9 g | FC=1C=CC(=C(C1)C)[N+](=O)[O-] | C7H6FNO2
reactant | 4-iodo-2-methylimidazole | 9.0 g | IC=1N=C(NC1)C | C4H5IN2
reactant | sodium carbonate | 4.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 50 cm3 | O | H2O
solvent | dimethylformamide | 50 cm3 | CN(C=O)C | C3H7NO
product | 4-Iodo-1-(3-methyl-4-nitrophenyl)-2-methylimidazole | IC=1N=C(N(C1)C1=CC(=C(C=C1)[N+](=O)[O-])C)C | C11H10IN3O2
